* .subckt mps1 in1 in2 out1 out2 Lin=501m Lout=1.043 Rin=92.8 Rout=345.1
.subckt mps1 in1 in2 out1 out2 Lin=307m Lout=633m Rin=92.8 Rout=345.1
* inductances
Li in1 intin {Lin}
Lo out1 intou {Lout}
* coupling factors
K1 Li Lo 0.498
* series resistances
Ri intin in2 {Rin}
Ro intou out2 {Rout}
.ends
